### PR TITLE
feat: add union on DTreeMap/TreeMap/TreeSet

### PR DESCRIPTION
**Pull request by wkrozowski**
This PR adds union operations on DTreeMap/TreeMap/TreeSet and their raw variants and provides lemmas about union operations.

### CODE REVIEW

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 69d8d63d58e56e873654341d4dddaac2c4a70737 --onto efbbb0b230ce95653d25b59c83fd24a51a8bf363`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-10-24 11:01:39)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 69d8d63d58e56e873654341d4dddaac2c4a70737 --onto 705084d9ba258dec704af428d7ce2444525f9ffb`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-10-30 23:49:06)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 69d8d63d58e56e873654341d4dddaac2c4a70737 --onto 3e86729ee0e11548a47f9b294d5292ada92c0b40`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-03 13:44:29)

File: src/Std/Data/DTreeMap/Basic.lean [hunk 1]
```diff
@@ -1073,6 +1073,25 @@ appearance.
 def insertMany {ρ} [ForIn Id ρ ((a : α) × β a)] (t : DTreeMap α β cmp) (l : ρ) : DTreeMap α β cmp :=
   letI : Ord α := ⟨cmp⟩; ⟨t.inner.insertMany l t.wf.balanced, t.wf.insertMany⟩
 
+/--
+Inserts multiple mappings into the tree map by iterating over the given collection and calling
+`insert`. If the same key appears multiple times, the first occurrence takes precedence.
```
Comment (datokrat) [inline src/Std/Data/DTreeMap/Basic.lean]: Would `insertIfNew` be more correct to say?

File: src/Std/Data/DTreeMap/Internal/Lemmas.lean [hunk 2]
```diff
@@ -3268,6 +3269,785 @@ theorem getD_insertManyIfNewUnit_empty_list
 
 end Const
 
+section Union
+
+variable (m₁ m₂ : Impl α β)
+
+variable {m₁ m₂}
```
Comment (datokrat) [inline src/Std/Data/DTreeMap/Internal/Lemmas.lean]: Suggestion: `{m₁ m₂ : Impl α β}`

File: src/Std/Data/DTreeMap/Internal/Lemmas.lean [hunk 3]
```diff
@@ -3268,6 +3269,785 @@ theorem getD_insertManyIfNewUnit_empty_list
...
+    {k : α} :
+    (m₁.union m₂ h₁.balanced h₂.balanced).get? k = (m₂.get? k).or (m₁.get? k) := by
+  simp_to_model [union, get?] using List.getValueCast?_of_insertList
+
+theorem get?_union! [TransOrd α] [LawfulEqOrd α] (h₁ : m₁.WF) (h₂ : m₂.WF)
+    {k : α} :
+    (m₁.union! m₂).get? k = (m₂.get? k).or (m₁.get? k) := by
+  rw [← union_eq_union!]
+  apply get?_union h₁ h₂
+  all_goals assumption
```
Comment (datokrat) [inline src/Std/Data/DTreeMap/Internal/Lemmas.lean:3410]: (Optional) Suggestion:

```lean
simpa [mem_iff_contains, union_eq_union! h₁ h₂] using contains_union_of_left h₁ h₂
```

File: src/Std/Data/DTreeMap/Internal/Lemmas.lean [hunk 4]
```diff
@@ -3268,6 +3269,785 @@ theorem getD_insertManyIfNewUnit_empty_list
...
+    (m₁.union m₂ h₁.balanced h₂.balanced).getD k fallback = m₁.getD k fallback := by
+  revert contains_eq_false
+  simp_to_model [union, getD, contains]
+  intro contains_eq_false
+  apply List.getValueCastD_insertList_of_contains_eq_false
+  . rw [← List.containsKey_eq_contains_map_fst]
+    exact contains_eq_false
+
+theorem getD_union!_of_contains_eq_false_right [TransOrd α] [LawfulEqOrd α] (h₁ : m₁.WF) (h₂ : m₂.WF)
+    {k : α} {fallback : β k} (contains_eq_false : m₂.contains k = false)  :
```
Comment (datokrat) [inline src/Std/Data/DTreeMap/Internal/Lemmas.lean]:
```suggestion
    {k : α} {fallback : β k} (contains_eq_false : m₂.contains k = false) :
```

File: src/Std/Data/DTreeMap/Internal/Lemmas.lean [hunk 5]
```diff
@@ -3268,6 +3269,785 @@ theorem getD_insertManyIfNewUnit_empty_list
...
+
+theorem getD_union!_of_contains_eq_false_left [TransOrd α] [LawfulEqOrd α] (h₁ : m₁.WF) (h₂ : m₂.WF)
+    {k : α} {fallback : β k} (contains_eq_false : m₁.contains k = false) :
+    (m₁.union! m₂).getD k fallback = m₂.getD k fallback := by
+  rw [← union_eq_union!]
+  apply getD_union_of_contains_eq_false_left h₁ h₂
+  all_goals assumption
+
+theorem getD_union_of_contains_eq_false_right [TransOrd α] [LawfulEqOrd α] (h₁ : m₁.WF) (h₂ : m₂.WF)
+    {k : α} {fallback : β k} (contains_eq_false : m₂.contains k = false)  :
```
Comment (datokrat) [inline src/Std/Data/DTreeMap/Internal/Lemmas.lean]:
```suggestion
theorem getD_union_of_contains_eq_false_right [TransOrd α] [LawfulEqOrd α] (h₁ : m₁.WF) (h₂ : m₂.WF)
    {k : α} {fallback : β k} (contains_eq_false : m₂.contains k = false) :
```

File: src/Std/Data/DTreeMap/Internal/Lemmas.lean [hunk 6]
```diff
@@ -3268,6 +3269,785 @@ theorem getD_insertManyIfNewUnit_empty_list
...
+  . apply List.Perm.trans
+    . apply insertList_insertEntry_right_equiv_insertEntry_insertList
+      any_goals wf_trivial
+    . apply insertEntry_of_perm
+      . apply List.DistinctKeys.insertList
+        . wf_trivial
+      . apply List.Perm.symm
+        . apply toListModel_union_list (by wf_trivial) (by wf_trivial)
+
+theorem union!_insert_right_equiv_insert_union! [TransOrd α]  {p : (a : α) × β a}
```
Comment (datokrat) [inline src/Std/Data/DTreeMap/Internal/Lemmas.lean]:
```suggestion
theorem union!_insert_right_equiv_insert_union! [TransOrd α] {p : (a : α) × β a}
```

File: src/Std/Data/DTreeMap/Internal/Lemmas.lean [hunk 7]
```diff
@@ -3268,6 +3269,785 @@ theorem getD_insertManyIfNewUnit_empty_list
...
+
+theorem contains_of_contains_union!_of_contains_eq_false_left [TransOrd α]
+    (h₁ : m₁.WF) (h₂ : m₂.WF) {k : α} :
+    (m₁.union! m₂).contains k → m₁.contains k = false → m₂.contains k := by
+  rw [← union_eq_union!]
+  apply contains_of_contains_union_of_contains_eq_false_left h₁ h₂
+  all_goals assumption
+
+/- Equiv -/
+theorem union_insert_right_equiv_insert_union [TransOrd α]  {p : (a : α) × β a}
```
Comment (datokrat) [inline src/Std/Data/DTreeMap/Internal/Lemmas.lean]:
```suggestion
theorem union_insert_right_equiv_insert_union [TransOrd α] {p : (a : α) × β a}
```

File: src/Std/Data/DTreeMap/Internal/WF/Lemmas.lean [hunk 8]
```diff
@@ -1597,6 +1656,68 @@ theorem toListModel_insertMany_list {_ : Ord α} [BEq α] [LawfulBEqOrd α] [Tra
     exact insertList_perm_of_perm_first (toListModel_insert! h.balanced h.ordered)
       h.insert!.ordered.distinctKeys
 
+theorem toListModel_insertMany_impl {_ : Ord α} [BEq α] [LawfulBEqOrd α] [TransOrd α]
+    {t₁ : Impl α β} (h₁ : t₁.WF) {t₂ : Impl α β} :
```
Comment (datokrat) [inline src/Std/Data/DTreeMap/Internal/WF/Lemmas.lean:1660]: The naming scheme for the Impl-based lemmas was `_tree` above. I'm not sure which one I like better; my tendency is `_impl` because the type is called `Impl`.

File: src/Std/Data/DTreeMap/Lemmas.lean [hunk 9]
```diff
@@ -2229,6 +2233,301 @@ theorem getD_unitOfList {l : List α} {k : α} {fallback : Unit} :
...
+theorem mem_of_mem_union_of_not_mem_left [TransCmp cmp]
+    {k : α} :
+    k ∈ t₁ ∪ t₂ → ¬k ∈ t₁ → k ∈ t₂ := by
+  intro mem not_mem
+  rw [← contains_eq_false_iff_not_mem] at not_mem
+  exact Impl.contains_of_contains_union_of_contains_eq_false_left t₁.wf t₂.wf mem not_mem
+
+
+/- Equiv -/
+theorem union_insert_right_equiv_union_insert [TransCmp cmp] {p : (a : α) × β a} :
```
Comment (datokrat) [inline src/Std/Data/DTreeMap/Lemmas.lean]: I think this should be

```suggestion
theorem union_insert_right_equiv_insert_union [TransCmp cmp] {p : (a : α) × β a} :
```

because `insert` is called on `union`. (similarly in the other tree map variant files...)

I was also wondering whether `union_insert_equiv_...`, without `right`, would be unambiguous, and I think it is -- but then a potention "left" variant `insert_union_equiv...` would be ambiguous! So I tend to think the `right` is right.

File: src/Std/Data/DTreeMap/Raw/Basic.lean [hunk 10]
```diff
@@ -771,7 +781,6 @@ def insertMany {ρ} [ForIn Id ρ (α × β)] (t : Raw α β cmp) (l : ρ) : Raw
 @[inline, inherit_doc DTreeMap.Const.insertManyIfNewUnit]
 def insertManyIfNewUnit {ρ} [ForIn Id ρ α] (t : Raw α Unit cmp) (l : ρ) : Raw α Unit cmp :=
   letI : Ord α := ⟨cmp⟩; ⟨Impl.Const.insertManyIfNewUnit! t.inner l⟩
-
```
Comment (datokrat) [inline src/Std/Data/DTreeMap/Raw/Basic.lean:774]: nit pick, but I believe this newline should stay

File: src/Std/Data/DTreeMap/Raw/Basic.lean [hunk 11]
```diff
@@ -756,6 +756,16 @@ end Const
 def insertMany {ρ} [ForIn Id ρ ((a : α) × β a)] (t : Raw α β cmp) (l : ρ) : Raw α β cmp :=
   letI : Ord α := ⟨cmp⟩; ⟨t.inner.insertMany! l⟩
 
+/--
+Computes the union of the given tree maps. If a key appears in both maps, the entry contains in the second argument will appear in the result.
```
Comment (datokrat) [inline src/Std/Data/DTreeMap/Raw/Basic.lean]:
```suggestion
Computes the union of the given tree maps. If a key appears in both maps, the entry contained in the second argument will appear in the result.
```

File: src/Std/Data/DTreeMap/Basic.lean [hunk 12]
```diff
@@ -1073,6 +1073,25 @@ appearance.
...
+-/
+@[inline]
+def insertManyIfNew {ρ} [ForIn Id ρ ((a : α) × β a)] (t : DTreeMap α β cmp) (l : ρ) : DTreeMap α β cmp :=
+  letI : Ord α := ⟨cmp⟩; ⟨t.inner.insertManyIfNew l t.wf.balanced, t.wf.insertManyIfNew⟩
+
+/--
+Computes the union of the given tree maps. If a key appears in both maps, the entry contains in
+the second argument will appear in the result.
```
Comment (datokrat) [inline src/Std/Data/DTreeMap/Basic.lean]:
```suggestion
Computes the union of the given tree maps. If a key appears in both maps, the entry contained in
the second argument will appear in the result.
```

File: src/Std/Data/DTreeMap/Internal/Operations.lean [hunk 13]
```diff
@@ -495,10 +499,32 @@ def insertMany [Ord α] {ρ : Type w} [ForIn Id ρ ((a : α) × β a)] (t : Impl
...
 /-- A tree map obtained by inserting elements into `t`, bundled with an inductive principle. -/
 abbrev IteratedSlowInsertionInto [Ord α] (t) :=
   { t' // ∀ {P : Impl α β → Prop}, P t → (∀ t'' a b, P t'' → P (t''.insert! a b)) → P t' }
 
+/-- A tree map obtained by inserting elements into `t` if they are new, bundled with an inductive principle. -/
+abbrev IteratedSlowNewInsertionInto [Ord α] (t) :=
+  { t' // ∀ {P : Impl α β → Prop}, P t → (∀ t'' a b, P t'' → P (t''.insertIfNew! a b)) → P t' }
+
+/--
+Computes the union of the given tree maps. If a key appears in both maps, the entry contains in the second argument will appear in the result.
```
Comment (datokrat) [inline src/Std/Data/DTreeMap/Internal/Operations.lean]:
```suggestion
Computes the union of the given tree maps. If a key appears in both maps, the entry contained in the second argument will appear in the result.
```

File: src/Std/Data/DTreeMap/Lemmas.lean [hunk 14]
```diff
@@ -2229,6 +2233,301 @@ theorem getD_unitOfList {l : List α} {k : α} {fallback : Unit} :
...
+    (t₁ ∪ (t₂.insert p.fst p.snd)).Equiv ((t₁ ∪ t₂).insert p.fst p.snd) :=
+    ⟨Impl.union_insert_right_equiv_insert_union t₁.wf t₂.wf⟩
```
Comment (datokrat) [inline src/Std/Data/DTreeMap/Lemmas.lean]:
```suggestion
    (t₁ ∪ (t₂.insert p.fst p.snd)).Equiv ((t₁ ∪ t₂).insert p.fst p.snd) :=
  ⟨Impl.union_insert_right_equiv_insert_union t₁.wf t₂.wf⟩
```

File: src/Std/Data/TreeMap/Lemmas.lean [hunk 15]
```diff
@@ -1527,6 +1527,204 @@ theorem getD_unitOfList {l : List α} {k : α} {fallback : Unit} :
...
+  DTreeMap.mem_of_mem_union_of_not_mem_right
+
+theorem mem_of_mem_union_of_not_mem_left [TransCmp cmp]
+    {k : α} :
+    k ∈ t₁ ∪ t₂ → ¬k ∈ t₁ → k ∈ t₂ :=
+  DTreeMap.mem_of_mem_union_of_not_mem_left
+
+/- Equiv -/
+theorem union_insert_right_equiv_union_insert [TransCmp cmp] {p : (_ : α) × β}
+    :
```
Comment (datokrat) [inline src/Std/Data/TreeMap/Lemmas.lean]:
```suggestion
theorem union_insert_right_equiv_union_insert [TransCmp cmp] {p : (_ : α) × β} :
```

File: src/Std/Data/TreeMap/Lemmas.lean [hunk 16]
```diff
@@ -1527,6 +1527,204 @@ theorem getD_unitOfList {l : List α} {k : α} {fallback : Unit} :
...
+
+/- getKey? -/
+theorem getKey?_union [TransCmp cmp]
+    {k : α} :
+    (t₁ ∪ t₂).getKey? k = (t₂.getKey? k).or (t₁.getKey? k) :=
+  DTreeMap.getKey?_union
+
+theorem getKey?_union_of_not_mem_left [TransCmp cmp]
+
+    {k : α} (not_mem : ¬k ∈ t₁) :
```
Comment (datokrat) [inline src/Std/Data/TreeMap/Lemmas.lean:1645]:
```suggestion
theorem getKey?_union_of_not_mem_left [TransCmp cmp]
    {k : α} (not_mem : ¬k ∈ t₁) :
```

File: src/Std/Data/TreeMap/Lemmas.lean [hunk 17]
```diff
@@ -1527,6 +1527,204 @@ theorem getD_unitOfList {l : List α} {k : α} {fallback : Unit} :
...
+
+theorem size_left_le_size_union [TransCmp cmp] : t₁.size ≤ (t₁ ∪ t₂).size :=
+  DTreeMap.size_left_le_size_union
+
+theorem size_right_le_size_union [TransCmp cmp] : t₂.size ≤ (t₁ ∪ t₂).size :=
+  DTreeMap.size_right_le_size_union
+
+theorem size_union_le_size_add_size [TransCmp cmp]
+    :
+    (t₁ ∪ t₂).size ≤ t₁.size + t₂.size :=
```
Comment (datokrat) [inline src/Std/Data/TreeMap/Lemmas.lean]:
```suggestion
theorem size_union_le_size_add_size [TransCmp cmp] :
    (t₁ ∪ t₂).size ≤ t₁.size + t₂.size :=
```

File: src/Std/Data/TreeSet/Basic.lean [hunk 18]
```diff
@@ -482,6 +482,16 @@ appearance.
 def insertMany {ρ} [ForIn Id ρ α] (t : TreeSet α cmp) (l : ρ) : TreeSet α cmp :=
   ⟨TreeMap.insertManyIfNewUnit t.inner l⟩
 
+/--
+Computes the union of the given tree sets.
```
Comment (datokrat) [inline src/Std/Data/TreeSet/Basic.lean]: How about

```suggestion
Computes the union of the given tree sets. If both maps contain elements that are equal according to the comparison function, the element contained in the second argument will appear in the result.
```

I tried to write the analogous sentence we had for `TreeMap`.

File: src/Std/Data/TreeSet/Lemmas.lean [hunk 19]
```diff
@@ -474,6 +474,134 @@ theorem ordered_toList [TransCmp cmp] :
...
+
+/- get? -/
+theorem get?_union [TransCmp cmp]
+    {k : α} :
+    (t₁ ∪ t₂).get? k = (t₂.get? k).or (t₁.get? k) :=
+  TreeMap.getKey?_union
+
+theorem get?_union_of_not_mem_left [TransCmp cmp]
+
+    {k : α} (not_mem : ¬k ∈ t₁) :
```
Comment (datokrat) [inline src/Std/Data/TreeSet/Lemmas.lean:523]:
```suggestion
theorem get?_union_of_not_mem_left [TransCmp cmp]
    {k : α} (not_mem : ¬k ∈ t₁) :
```

File: src/Std/Data/TreeSet/Lemmas.lean [hunk 20]
```diff
@@ -474,6 +474,134 @@ theorem ordered_toList [TransCmp cmp] :
...
+    (t₁ ∪ t₂).get? k = t₂.get? k :=
+  TreeMap.getKey?_union_of_not_mem_left not_mem
+
+theorem get?_union_of_not_mem_right [TransCmp cmp]
+
+    {k : α} (not_mem : ¬k ∈ t₂) :
```
Comment (datokrat) [inline src/Std/Data/TreeSet/Lemmas.lean:528]:
```suggestion
theorem get?_union_of_not_mem_right [TransCmp cmp]
    {k : α} (not_mem : ¬k ∈ t₂) :
```

File: src/Std/Data/TreeSet/Lemmas.lean [hunk 21]
```diff
@@ -474,6 +474,134 @@ theorem ordered_toList [TransCmp cmp] :
...
+
+theorem size_left_le_size_union [TransCmp cmp] : t₁.size ≤ (t₁ ∪ t₂).size :=
+  DTreeMap.size_left_le_size_union
+
+theorem size_right_le_size_union [TransCmp cmp] : t₂.size ≤ (t₁ ∪ t₂).size :=
+  DTreeMap.size_right_le_size_union
+
+theorem size_union_le_size_add_size [TransCmp cmp]
+    :
+    (t₁ ∪ t₂).size ≤ t₁.size + t₂.size :=
```
Comment (datokrat) [inline src/Std/Data/TreeSet/Lemmas.lean]:
```suggestion
theorem size_union_le_size_add_size [TransCmp cmp] :
    (t₁ ∪ t₂).size ≤ t₁.size + t₂.size :=
```

File: src/Std/Data/DTreeMap/Internal/WF/Lemmas.lean (hunk 8 above)
Comment (wkrozowski) [reply src/Std/Data/DTreeMap/Internal/WF/Lemmas.lean:1660]: Thanks, just fixed that!

File: src/Std/Data/DTreeMap/Lemmas.lean (hunk 9 above)
Comment (wkrozowski) [reply src/Std/Data/DTreeMap/Lemmas.lean]: Hmmm, that is a fair point. I did that only to be consistent with the analogous lemma on `DHashMap`, etc... which is already merged.

**Comment by wkrozowski** [comment]
@datokrat Thanks for your comments! I have responded to and fixed everything :)

File: src/Std/Data/DTreeMap/Lemmas.lean (hunk 9 above)
Comment (datokrat) [reply src/Std/Data/DTreeMap/Lemmas.lean]: Oh, I see... I don't hold this position strongly, but I think it would be good to at least deprecate the old name and rename it to `union_insert_right_equiv_insert_union` -- except if we consider `insert` an infix operation. What do you think.
